US09255100B2
N-ethyl-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide
To a stirred solution of 15 g (57 mmol) 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid in NMP (20 mL) were added 85.84 mL (171.68 mmol) ethylamine and 72.8 mL 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide (114.45 mmol, 2M in THF) and the mixture was stirred for 2 h at rt to give after working up and purification 16.00 g (96.7%) of the title compound.

reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 57 mmol, 15 g | CC1=C(C(=O)O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | ethylamine | 171.68 mmol, 85.84 mL | C(C)N | C2H7N
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphinane 2,4,6-trioxide | 114.45 mmol, 2M, 72.8 mL | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
product | N-ethyl-2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | C(C)NC(C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C16H24BNO3
